US06498159B1
Then, 30 ml solution of 3.48 g diethyl azodicarboxylate in tetrahydrofuran was added to 100 ml solution of 4.2 g 1-(4-hydroxypiperidino)-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine, 2.94 g phthalimide, and 5.24 g triphenylphosphine in tetrahydrofuran over 30 min under ice-cooling, and then it was stirred at 4° C. for 24 hr. The reaction solution was evaporated, water and ethyl acetate were added thereto, and then the insoluble matters were removed by filtration. The organic layer was concentrated, and the resulting residue was purified by silica gel column chromatography to give 4.85 g of 4-(3-chloro-4-methoxybenzyl)amino-6-cyano-1-(4-phthalimidopiperidino)phthalazine.

reactant | diethyl azodicarboxylate | 3.48 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-(4-hydroxypiperidino)-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine | 4.2 g | OC1CCN(CC1)C1=NN=C(C2=CC(=CC=C12)C#N)NCC1=CC(=C(C=C1)OC)Cl | C22H22ClN5O2
reactant | phthalimide | 2.94 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 5.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(3-chloro-4-methoxybenzyl)amino-6-cyano-1-(4-phthalimidopiperidino)phthalazine | 4.85 g | ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)N2CCC(CC2)N2C(C=3C(C2=O)=CC=CC3)=O)C=CC1OC | C30H25ClN6O3
